US06951879B2
In analogy to example 17.1, Methanesulfonic acid 5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester and 2-Methoxyethylmethylamine were converted to yield (2-Methoxy-ethyl)-methyl-{5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-amine as orange oil, MS: 433 (MH+).

reactant | Methanesulfonic acid 5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCOS(=O)(=O)C)(F)F | C20H16F3NO3S2
reactant | 2-Methoxyethylmethylamine | COCCNC | C4H11NO
product | (2-Methoxy-ethyl)-methyl-{5-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-ynyl}-amine | COCCN(CCCC#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1)C | C23H23F3N2OS
